US06730803B2
R-N-(p-Hydroxybenzyl)phenylethylamine salt (8.42 g, 22.7 mmol) of optically active 4-cyano-3-hydroxy-4-methylpentanoic acid was dissolved in water (20 mL) and toluene (20 mL) was added. 2N Aqueous potassium carbonate solution (22.7 mL, 45.4 mmol) was gradually added dropwise with vigorous stirring. After stirring vigorously at room temperature for 30 min, the mixture was partitioned and an organic layer was removed. Then, toluene (20 mL) and tetrabutylammonium bromide (1.01 g, 3.42 mmol) were added and dimethyl sulfate (3.15 g, 25.0 mmol) was dropwise added with vigorous stirring. The reaction mixture was stirred at room temperature for 2 hr, and a toluene layer was separated and concentrated under reduced pressure to give optically active methyl 4-cyano-3-hydroxy-4-methylpentanoate (3.62 g). The yield was 93.4% relative to optically active 4-cyano-3-hydroxy-4-methylpentanoic acid.

reactant | 4-cyano-3-hydroxy-4-methylpentanoic acid | C(#N)C(C(CC(=O)O)O)(C)C | C7H11NO3
reactant | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
reactant | potassium carbonate | 45.4 mmol, 2N, 22.7 mL | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
reactant | dimethyl sulfate | 25.0 mmol, 3.15 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | 20 mL | O | H2O
catalyst | tetrabutylammonium bromide | 3.42 mmol, 1.01 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | methyl 4-cyano-3-hydroxy-4-methylpentanoate | 3.62 g, yield was 93.4% | C(#N)C(C(CC(=O)OC)O)(C)C | C8H13NO3
